US05286736
6-[4-(4-Chlorobenzoylamino)-phenyl]-6-(3-pyridyl)-hex-5-enoic acid
At 5°-10° C., 5 ml of triethylamine are added dropwise to a mixture of 3 g of methyl 6-(4-aminophenyl)-6-(3-pyridyl)-hex-5-enoate and 2.1 g of 4-chlorobenzoic acid chloride. After 30 minutes the reaction mixture is washed with water and evaporated down. The residue is mixed with 30 ml of ethanol and 5 ml of 10N sodium hydroxide solution and heated to 50° C. for 30 minutes. The reaction mixture is evaporated down and the residue is taken up in water. The agueous phase is washed with ethyl acetate, neutralised by the addition of citric acid and then extracted with ethyl acetate. The organic phase is washed with water, dried and evaporated down and the residue is recrystallised from ethyl acetate/diisopropylether.

reactant | methyl 6-(4-aminophenyl)-6-(3-pyridyl)-hex-5-enoate | 3 g | NC1=CC=C(C=C1)C(=CCCCC(=O)OC)C=1C=NC=CC1 | C18H20N2O2
reactant | 4-chlorobenzoic acid chloride | 2.1 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
product | 6-[4-(4-Chlorobenzoylamino)-phenyl]-6-(3-pyridyl)-hex-5-enoic acid | ClC1=CC=C(C(=O)NC2=CC=C(C=C2)C(=CCCCC(=O)O)C=2C=NC=CC2)C=C1 | C24H21ClN2O3
